US04096183
A suspension of 4-amino-N-(4-nitrostyrylsulfonyl)benzamidine (6.9 g., 0.02 mole) in 120 ml. of acetone is stirred with 50% sodium hydroxide (6.4 g., 0.08 mole) in 40 ml. of water for 1 hr. Concentration of the reaction mixture affords a residue which is stirred with 50 ml. of water, filtered, washed with water, and dried. Trituration of the dried filter cake with isopropyl alcohol yields 5.3 g. (95%) of N-(4-nitrostyryl)-4-aminobenzamidine free base, m.p. 195°-197° C. (dec.) The free base (5.0 g.) dissolved in 400 ml. of hot 1:1 methanolacetone and acidified with ethanolic hydrogen chloride provides 3.5 g. of analytically pure 4-AMINO-N-(4-NITROSTYRYL)BENZAMIDINE HYDROCHLORIDE as a yellow solid, m.p. 247°-248° C. (dec.)(corr.) Concentration of the mother liquors and trituration of the residue provided an additional 2.6 g. of the hydrochloride salt.

reactant | 4-amino-N-(4-nitrostyrylsulfonyl)benzamidine | 0.02 mole, 6.9 g | NC1=CC=C(C(=N)NS(=O)(=O)C=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C15H14N4O4S
reactant | sodium hydroxide | 0.08 mole, 6.4 g | [OH-].[Na+]
reactant | N-(4-nitrostyryl)-4-aminobenzamidine | [N+](=O)([O-])C1=CC=C(C=CNC(C2=CC=C(C=C2)N)=N)C=C1 | C15H14N4O2
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 4-AMINO-N-(4-NITROSTYRYL)BENZAMIDINE HYDROCHLORIDE | Cl.NC1=CC=C(C(=N)NC=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | InChI=1S/C15H14N4O2.ClH/c16-13-5-3-12(4-6-13)15(17)18-10-9-11-1-7-14(8-2-11)19(20)21;/h1-10H,16H2,(H2,17,18);1H
